US08609687B2
8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine
Made by following the procedure described for the preparation of 8-(3-(trifluoromethyl)phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-amine with 4-methoxyphenyl boronic acid and making non-critical variations.

reactant | 8-(3-(trifluoromethyl)phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-amine | FC(C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)N)(F)F | C13H9F3N4
reactant | 4-methoxyphenyl boronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | COC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O
